US07683060B2
Step 1. 4-[3-(1-quinolin-6-ylcyclopropyl)[1,2,4]triazolo[4,3-b][1,2,4]triazin-6-yl]benzoic acid
Methyl 4-[3-(1-quinolin-6-ylcyclopropyl) [1,2,4]triazolo[4,3-b][1,2,4]triazin-6-yl]benzoate (300 mg, 0.7 mmol) was dissolved in 6 ml of THF-MeOH—H2O (3:1:1). To the solution was added a solution of 2.0 M of lithium hydroxide in water (710 μL) with stirring under N2 atmosphere. The mixture was stirred at RT for 1 h, and then neutralized with aqueous HCl solution (1.0 M, 1.420 mL). The white precipitate formed was collected by filtration, and dried in-vacuo to give the desired product (210 mg, 72%). Analytical LCMS: m/z 409.0 (M+H).

reactant | Methyl 4-[3-(1-quinolin-6-ylcyclopropyl) [1,2,4]triazolo[4,3-b][1,2,4]triazin-6-yl]benzoate | 0.7 mmol, 300 mg | N1=CC=CC2=CC(=CC=C12)C1(CC1)C1=NN=C2N1N=C(C=N2)C2=CC=C(C(=O)OC)C=C2 | C24H18N6O2
reactant | lithium hydroxide | 2.0 M | [OH-].[Li+]
reactant | HCl | 1.0 M, 1.420 mL | Cl | ClH
solvent | THF MeOH—H2O | 6 ml | C1CCOC1.CO.O
solvent | water | 710 μL | O | H2O
product | 4-[3-(1-quinolin-6-ylcyclopropyl)[1,2,4]triazolo[4,3-b][1,2,4]triazin-6-yl]benzoic acid | 210 mg, 72% | N1=CC=CC2=CC(=CC=C12)C1(CC1)C1=NN=C2N1N=C(C=N2)C2=CC=C(C(=O)O)C=C2 | C23H16N6O2
